US06143762
7-Cyano-2-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline
A mixture of 7-bromo-2-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline (12.0 g, 0.044 mol), copper (I) cyanide (8.7 g, 0.097 mol) and N-methyl-2-pyrrolidinone (100 ml) was heated at reflux for 4 h, cooled, then partitioned between dilute aqueous ammonia (500 ml) and ethyl acetate (300 ml). Organic phase was washed with dilute aqueous ammonia (100 ml), water (4×100 ml), then dried (Na2SO4) and evaporated in vacuo to give the title compound as an oil (7.89 g, 83%).

reactant | 7-bromo-2-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline | 0.044 mol, 12.0 g | BrC1=CC=C2CCN(CC2=C1)C(=O)OC | C11H12BrNO2
reactant | copper (I) cyanide | 0.097 mol, 8.7 g | [Cu]C#N
solvent | N-methyl-2-pyrrolidinone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 7-Cyano-2-methoxycarbonyl-1,2,3,4-tetrahydroisoquinoline | 7.89 g, 83% | C(#N)C1=CC=C2CCN(CC2=C1)C(=O)OC | C12H12N2O2
